US07935696B2
Ethyl 6-(5-(cyclopropylcarbamoyl)-2-methylphenylcarbamoyl)-1H-indole-1-carboxylate
To a solution of 3-amino-N-cyclopropyl-4-methylbenzamide (0.025 g, 0.11 mmol) in anhydrous DMF (0.5 mL), are sequentially added 1-(ethoxycarbonyl)-1H-indole-6-carboxylic acid (0.026 g, 0.11 mmol, prepared according to a similar procedure outlined for step A, Example 128 in WO 2002/014308) triethylamine (61 μL, 0.44 mmol) and BOP (0.098 g, 0.22 mmol) at room temperature. The reaction mixture was stirred at room temperature for 18 h, diluted with MeOH (0.5 mL) and subjected to reverse phase preparative HPLC (YMC S5 20×100 mm, 10 min. run, solvent A: 10% MeOH: 90% H2O: 0.1% TFA, solvent B: 90% MeOH, 10% H2O, 0.1% TFA). The desired fractions were collected, and concentrated using speedVac® Plus (SC250DDA) to yield the title compound (Example 218, 0.010 g). HPLC Ret. time (YMC S5 Combiscreen ODS; 4.6×50 mm (4 min. gradient); Solvent A=10% MeOH, 90% H2O, 0.2% H3PO4; solvent B=90% MeOH, 10% H2O, 0.2% H3PO4): 3.18 min. LCMS [M+H]+ 406.3.

reactant | 3-amino-N-cyclopropyl-4-methylbenzamide | 0.11 mmol, 0.025 g | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
reactant | 1-(ethoxycarbonyl)-1H-indole-6-carboxylic acid | C(C)OC(=O)N1C=CC2=CC=C(C=C12)C(=O)O | C12H11NO4
reactant | triethylamine | 0.44 mmol, 61 μL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.22 mmol, 0.098 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | H2O | O | H2O
product | Ethyl 6-(5-(cyclopropylcarbamoyl)-2-methylphenylcarbamoyl)-1H-indole-1-carboxylate | 0.010 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=CC=C2C=CN(C2=C1)C(=O)OCC)C | C23H23N3O4
